US04436748
A mixture of 1.6 mmoles of 6,7-dichloro-5-methoxy-3-phenylbenzo[b]thiophene and 5 g of pyridine hydrochloride is heated at 195° for 30 min. with stirring. The mixture is cooled and triturated with 50 ml of water. The solid material is collected on a filter, air dried and recrystallized from acetone-hexane to give 0.4 g of 6,7-dichloro-5-hydroxy-3-phenylbenzo[b]thiophene as white prisms, mp 157°-159°.

reactant | 6,7-dichloro-5-methoxy-3-phenylbenzo[b]thiophene | 1.6 mmoles | ClC=1C(=CC2=C(SC=C2C2=CC=CC=C2)C1Cl)OC | C15H10Cl2OS
reactant | pyridine hydrochloride | 5 g | Cl.N1=CC=CC=C1
product | 6,7-dichloro-5-hydroxy-3-phenylbenzo[b]thiophene | 0.4 g | ClC=1C(=CC2=C(SC=C2C2=CC=CC=C2)C1Cl)O | C14H8Cl2OS
